US06214846B1
2-Cyclopropoxy-5-(trifluoromethoxy)benzaldehyde
Sulfur trioxide pyridine complex (0.90 g, 5.7 mmol) was added to a solution of 2-cyclopropoxy-5-(trifluoromethoxy)benzenemethanol (Description 13, 393 mg, 1.6 mmol) and triethylamine, (1.54 mL, 11.1 mmol) in dimethylsulfoxide (3 mL) and the mixture was stirred at room temperature for 45 min. Further triethylamine (0.44 mL, 3.2 mmol) and sulfur trioxide pyridine complex (0.126 g, 0.8 mmol) were added and the mixture was stirred at room temperature for 30 min. The mixture was poured into aqueous citric acid (10%, 50 mL) and extracted with ethyl acetate. The combined organic fractions were washed with aqueous citric acid (10%, 3×50 mL) and water (3×50 mL), dried (Na2SO4), and the solvent was evaporated under reduced pressure to give the title compound as an orange oil (0.326 g, 84%). 1H NMR (360 MHz, CDCl3) δ0.86 (4H, m), 3.82-3.9 (1H, m), 7.42 (2H, m), 7.62 (1H, d, J 2.5 Hz), and 10.36 (1H, s).

reactant | 2-cyclopropoxy-5-(trifluoromethoxy)benzenemethanol | 1.6 mmol, 393 mg | C1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)CO | C11H11F3O3
reactant | triethylamine | 11.1 mmol, 1.54 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 3.2 mmol, 0.44 mL | C(C)N(CC)CC | C6H15N
reactant | citric acid | 50 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 2-Cyclopropoxy-5-(trifluoromethoxy)benzaldehyde | 0.326 g, 84% | C1(CC1)OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C11H9F3O3
